US04607041
Diethyl 1,2,3,4-tetrahydro-2-hydroxy-6-methyl-4-(3-nitrophenyl)-2-(4-nitrophenyl)-3,5-pyridinedicarboxylate
Ethyl 4-nitro-beta-oxobenzenepropanoate (4.74 g, 20 mmoles), ethyl 2-(3-nitrophenylmethylene)-3-oxobutanoate (5.26 g, 20 mmoles) and aqueous ammonia (2.2 ml, d0.88) were heated at reflux in ethanol (50 ml) for 1.5 hours. After cooling the product was filtered off and recrystallised from ethanol to give the title compound (2.6 g) mp 196°-7°.

reactant | Ethyl 4-nitro-beta-oxobenzenepropanoate | 20 mmoles, 4.74 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11NO5
reactant | ethyl 2-(3-nitrophenylmethylene)-3-oxobutanoate | 20 mmoles, 5.26 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)OCC)C(C)=O | C13H13NO5
reactant | ammonia | 2.2 ml | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Diethyl 1,2,3,4-tetrahydro-2-hydroxy-6-methyl-4-(3-nitrophenyl)-2-(4-nitrophenyl)-3,5-pyridinedicarboxylate | 2.6 g | OC1(NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)C1=CC=C(C=C1)[N+](=O)[O-] | C24H25N3O9
